US06211170B1
To a solution of 3-chloropropylamine hydrochloride (10 g, 77.0 mmol) and NaOH (10 N, 7.6 mL, 76 mmol) in THF (50 mL) was added di-tert-butyldicarbonate (15.9 g, 73 mmol) in THF (10 mL) followed by a mixture of MeOH/H2O (20/10 mL). The resulting solution was stirred for 2 h, then concentrated to approximately 15 mL and Et2O was added. The organic phase was washed twice with aqueous HCl (1.0 N), water and brine, dried (MgSO4), filtered and concentrated to give N-Boc-3-chloropropylamine (14.2 g, 96% yield) as a yellow oil.

reactant | 3-chloropropylamine hydrochloride | 77.0 mmol, 10 g | Cl.ClCCCN
reactant | NaOH | 76 mmol, 10 N, 7.6 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 73 mmol, 15.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH H2O | 10 mL | CO.O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-Boc-3-chloropropylamine | 14.2 g, 96% yield | C(=O)(OC(C)(C)C)NCCCCl | C8H16ClNO2
